US06660742B2
Methyl 3-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]4,4,4-trifluoro-2-butenoate (0.035 g, 0.0763 mmol) was dried under high vacuum in a round bottom flask. Palladium II acetate (0.034 g, 0.153 mmol) was added, the flask was then covered with a septum and flushed with N2. Dry dimethyl acetamiide (20 mL) was then added via syringe under N2. The solution was then degassed three times under vacuum for thirty minutes and purged with N2. The solution was then stirred for six hours and fifteen minutes in an oil bath at 68° C. The solution was then diluted with CHCl3 (100 mL) and washed with water three times (100 mL). The organic layer was dried with sodium sulfate, gravity filtered and concentrated on rotovap. The dimethylacetamide was removed under high vacuum Kugelrohr distillation (50° C., 0.25 mm Hg). The residue was purified on silica gel column using methylene chloride as a solvent to yield methyl 7-benzyloxy-4-(2-cloroethyl)-5-nitro-2-trifluoromethylindole-3-carboxylate as a yellow solid. Total yield: 0.010 g (0.022 mmol, 29%). TLC (methylene chloride) Rf320.75.500 MHz 1H-NMR (CDCl3) 9.24 (s br, 1H), 7.46 (m, 5H), 7.44 (s, 1H), 5.26 (s, 2H), 4.01 (s, 3H), 3.82 (t, 7.5, 2H), 3.63 (t, 7.5, 2H). IR (neat) 3036, 2952, 2915, 2850, 1732, 1713, 1695, 1576, 1534, 1503, 1451, 1337, 1259, 865, 802. EI-MS (relative intensity) 456 (M+, 3), 420 (M+−HCl, 3). Accurate mass for C20H16O9N235ClF3: calcd. 456.0700, obsd. 456.0695.

reactant | Methyl 3-[2-benzyloxy-5-(2-chloroethyl)-4-nitroanilino]4,4,4-trifluoro-2-butenoate | 0.0763 mmol, 0.035 g | C(C1=CC=CC=C1)OC1=C(NC(=CC(=O)OC)C(F)(F)F)C=C(C(=C1)[N+](=O)[O-])CCCl | C20H18ClF3N2O5
catalyst | Palladium II acetate | 0.153 mmol, 0.034 g | CC(=O)O.CC(=O)O.[Pd]
product | methyl 7-benzyloxy-4-(2-cloroethyl)-5-nitro-2-trifluoromethylindole-3-carboxylate | C(C1=CC=CC=C1)OC=1C=C(C(=C2C(=C(NC12)C(F)(F)F)C(=O)OC)CCCl)[N+](=O)[O-] | C20H16ClF3N2O5
